US05589478
To a solution of 4-tert-butyl-N-{5-(4-methylphenyl)-6-{2-(5-nitropyridin-2-yloxy)ethoxy}pyrimidin-4-yl}benzenesulfonamide (975 mg) in isopropanol/tetrahydrofuran (1:1) (20 ml) is added 10% palladium-carbon (200 mg), and the mixture is stirred at room temperature for 1.5 hour under hydrogen atmosphere (1 atm). The catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure. The residue is purified by silica gel column chromatography (solvent; chloroform/ethyl acetate=2:1), and recrystallized from ethyl acetate/n-hexane to give N-{6-{2-(5-aminopyridin-2-yloxy)ethoxy}-5-(4-methylphenyl)pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide (829 mg) as crystals.

reactant | 4-tert-butyl-N-{5-(4-methylphenyl)-6-{2-(5-nitropyridin-2-yloxy)ethoxy}pyrimidin-4-yl}benzenesulfonamide | 975 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=NC=C(C=C1)[N+](=O)[O-] | C28H29N5O6S
solvent | isopropanol tetrahydrofuran | 20 ml | C(C)(C)O.O1CCCC1
catalyst | palladium-carbon | 200 mg | [C].[Pd]
product | N-{6-{2-(5-aminopyridin-2-yloxy)ethoxy}-5-(4-methylphenyl)pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide | 829 mg | NC=1C=CC(=NC1)OCCOC1=C(C(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C | C28H31N5O4S
